US04323570
3.0 g 2-cyclopropyl-4,6-dichloro-5-(1-acetyl-2-imidazolin-2-yl)-aminopyrimidine are mixed with a solution of 0.5 g sodium methylate in 30 ml methanol and stirred for three hours at room temperature. Then about 20 ml of methanol is distilled off. After adding water and extracting with chloroform, the organic phase is dried and concentrated. 1.9 g of 4-chloro-2-cyclopropyl-6-methoxy-5-(2-imidazolin-2-yl)-aminopyrimidine is obtained; melting point 214° C. The hydrochloride obtained in known manner has a melting point of 200° C.

reactant | 2-cyclopropyl-4,6-dichloro-5-(1-acetyl-2-imidazolin-2-yl)-aminopyrimidine | 3.0 g | C1(CC1)C1N(C(=C(C(=N1)Cl)C=1N(CCN1)C(C)=O)Cl)N | C12H15Cl2N5O
reactant | sodium methylate | 0.5 g | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 4-chloro-2-cyclopropyl-6-methoxy-5-(2-imidazolin-2-yl)-aminopyrimidine | 1.9 g | ClC1=NC(N(C(=C1C=1NCCN1)OC)N)C1CC1 | C11H16ClN5O
